US08222245B2
7-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine hydrochloride
1,1-Dimethylethyl 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate (Preparation 7) (75 mg, 0.155 mmol) was treated with 4N HCl in dioxan (1162 μl, 4.65 mmol) and the clear solution left standing for 1.5 hours. A white precipitate formed. Ether (1 ml) was added and the white solid was filtered off, washing with ether. The title compound was obtained on drying of the solid (45 mg). δH (400 MHz, d6DMSO) 1.36 (6H, d), 1.91-1.98 (2H, m), 3.11-3.14 (2H, m), 3.36-3.39 (2H, m), 4.41 (2H, s), 4.85-4.94 (1H, m), 7.46 (1H, d), 7.64 (1H, d), 7.95-7.80 (2H, m), 8.11 (1H, dd), 8.19 (1H, d), 9.04 (2H, broad s); MS (ES) C21H2235ClN3O2 requires 383; found 384.0 [M+H]+.

reactant | 1,1-Dimethylethyl 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate | 0.155 mmol, 75 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CCCN(C2)C(=O)OC(C)(C)C)C1 | C26H30ClN3O4
reactant | HCl | 4N | Cl | ClH
reactant | dioxan | 4.65 mmol, 1162 μl | O1CCOCC1 | C4H8O2
solvent | Ether | 1 ml | CCOCC | C4H10O
product | 7-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine hydrochloride | Cl.ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CCCNC2)C1 | InChI=1S/C21H22ClN3O2.ClH/c1-13(2)26-19-8-7-16(11-18(19)22)21-24-20(25-27-21)15-5-6-17-12-23-9-3-4-14(17)10-15;/h5-8,10-11,13,23H,3-4,9,12H2,1-2H3;1H
